US07125901B2
To an ice-cold mixture of ethyl 2-amino-1,3-thiazole-4-carboxylate (5 g), pyridine (3.36 ml) and dichloromethane (50 ml) was added benzyloxycarbonyl chloride (3.1 ml), and the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was washed with saturated aqueous sodium hydrogen bicarbonate (30 ml), dried over sodium sulfate and concentrated in vacuo. The crystalline residue was collected and washed with diisopropyl ether to give ethyl 2-{[(benzyloxy)carbonyl]amino}-1,3-thiazole-4-carboxylate (5.1 g).

reactant | ethyl 2-amino-1,3-thiazole-4-carboxylate | 5 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
reactant | pyridine | 3.36 ml | N1=CC=CC=C1 | C5H5N
reactant | benzyloxycarbonyl chloride | 3.1 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 2-{[(benzyloxy)carbonyl]amino}-1,3-thiazole-4-carboxylate | 5.1 g | C(C1=CC=CC=C1)OC(=O)NC=1SC=C(N1)C(=O)OCC | C14H14N2O4S
